US07157464B2
Synthesis of 1-[4-(4-Chloro-phenyl)-piperazin-1-yl]-2-(4-chloro-5-phenyl-3-trifluoromethyl-pyrazol-1-yl)-ethanone
Protocol T was followed using 4-Chloro-5-phenyl-3-trifluoromethyl-1H-pyrazole, K2CO3, 2-Chloro-1-[4-(4-chloro-phenyl)-piperazin-1-yl]-ethanone and DMF. Column chromatography using a solvent mixture (hexane/ethyl acetate=2/3) afforded the title compound as white solid. 1H NMR (400 MHz, CDCl3): 7.82–7.84 (m, 2H), 7.4–7.48 (m, 3H), 6.9–7.04 (m, 2H), 6.88–6.94 (m, 2H), 5.22 (s, 1H), 3.76–3.88(m, 2H), 3.6–3.68 (m, 2H), 3.1–3.22 (m, 4H). 13C NMR (400 MHz, CDCl3): 164.2, 130.4, 128, 126, 118.2, 116.4, 52.2, 50, 44, 41.8.

reactant | 4-Chloro-5-phenyl-3-trifluoromethyl-1H-pyrazole | ClC=1C(=NNC1C1=CC=CC=C1)C(F)(F)F | C10H6ClF3N2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-Chloro-1-[4-(4-chloro-phenyl)-piperazin-1-yl]-ethanone | ClCC(=O)N1CCN(CC1)C1=CC=C(C=C1)Cl | C12H14Cl2N2O
reactant | DMF | CN(C)C=O | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 1-[4-(4-Chloro-phenyl)-piperazin-1-yl]-2-(4-chloro-5-phenyl-3-trifluoromethyl-pyrazol-1-yl)-ethanone | ClC1=CC=C(C=C1)N1CCN(CC1)C(CN1N=C(C(=C1C1=CC=CC=C1)Cl)C(F)(F)F)=O | C22H19Cl2F3N4O
